US08383639B2
2-(4-Fluorophenyl)-N-hydroxyacetimidamide.
A solution of 2-(4-fluorophenyl)acetonitrile (1.35 g, 10 mmol) and 50% aq. hydroxylamine (1.33 g, 20 mmol) in EtOH (10 mL) was stirred at 90° C. for 18 h then cooled and concentrated to afford the title compound (1.68 g, 100% yield) as white solid. 1HNMR (500 MHz, CDCl3) δ: 8.04-7.85 (1H, br s), 7.24 (2H, dd, J=8.6, 5.5 Hz), 7.01 (2H, t, J=8.6 Hz), 4.46 (2H, s), 3.43 (2H, s). LCMS (M+H): 169.14.

reactant | 2-(4-fluorophenyl)acetonitrile | 10 mmol, 1.35 g | FC1=CC=C(C=C1)CC#N | C8H6FN
reactant | hydroxylamine | 20 mmol, 1.33 g | NO | H3NO
solvent | EtOH | 10 mL | CCO | C2H6O
product | 2-(4-Fluorophenyl)-N-hydroxyacetimidamide | 1.68 g, 100% yield | FC1=CC=C(C=C1)CC(NO)=N | C8H9FN2O
